US06548671B2
Quinoxaline-2-carboxylic acid [1-benzyl-2-(tert-butyl-dimethyl-silanyloxy)-7-fluoro-7-methyl-4-oxazol-2-yl-octyl]-amide
To a solution of quinoxaline-2-carboxylic acid [1-benzyl-2-(tert-butyl-dimethyl-silanyloxy)-7-fluoro-7-methyl-4-(2-oxo-ethylcarbamoyl)-octyl]-amide (230 mg, 0.369 mmol) in methylene chloride (3.5 mL) was added triphenylphosphine (145 mg, 0.554 mmol), hexachloroethane (131 mg, 0.554 mmol) and triethylamine (0.103 mL, 0.739 mmol). The reaction was stirred for 16 hours than concentrated. Chromatography on silica gel gave the title compound (137 mg, 62%).

reactant | quinoxaline-2-carboxylic acid [1-benzyl-2-(tert-butyl-dimethyl-silanyloxy)-7-fluoro-7-methyl-4-(2-oxo-ethylcarbamoyl)-octyl]-amide | 0.369 mmol, 230 mg | C(C1=CC=CC=C1)C(C(CC(CCC(C)(C)F)C(NCC=O)=O)O[Si](C)(C)C(C)(C)C)NC(=O)C1=NC2=CC=CC=C2N=C1 | C34H47FN4O4Si
reactant | triphenylphosphine | 0.554 mmol, 145 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hexachloroethane | 0.554 mmol, 131 mg | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
reactant | triethylamine | 0.739 mmol, 0.103 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 3.5 mL | C(Cl)Cl | CH2Cl2
product | Quinoxaline-2-carboxylic acid [1-benzyl-2-(tert-butyl-dimethyl-silanyloxy)-7-fluoro-7-methyl-4-oxazol-2-yl-octyl]-amide | 137 mg, 62% | C(C1=CC=CC=C1)C(C(CC(CCC(C)(C)F)C=1OC=CN1)O[Si](C)(C)C(C)(C)C)NC(=O)C1=NC2=CC=CC=C2N=C1 | C34H45FN4O3Si
